US06861438B2
N-(4-chlorobenzyl)-2-iodo-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
To a stirring mixture of N-(4-chlorobenzyl)-7-hydroxy-2-iodothieno[3,2-b]pyridine-6-carboxamide (0.50 g, 1.12 mmol) in DMF (20 mL) in a pressure tube was added K2CO3 (0.31 g, 2.25 mmol). To the resulting suspension was added CH3I (0.335g, 2.36 mmol), the vessel capped and heated at 90° C. for 16 h. The resulting dark suspension was cooled to ambient temperature and poured into H2O (100 mL). The aqueous solution was extracted with CH2Cl2 (3×100 mL). The organic layers were combined, dried over MgSO4 and solvent removed to afford 0.38 g title compound as a yellow solid.

reactant | N-(4-chlorobenzyl)-7-hydroxy-2-iodothieno[3,2-b]pyridine-6-carboxamide | 1.12 mmol, 0.50 g | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)C=C(S3)I)O)C=C1 | C15H10ClIN2O2S
reactant | K2CO3 | 2.25 mmol, 0.31 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3I | 2.36 mmol, 0.335g | CI | CH3I
reactant | H2O | 100 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-(4-chlorobenzyl)-2-iodo-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 0.38 g | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C=C(S3)I)=O)C=C1 | C16H12ClIN2O2S
